* Amplificador Operacional (Equivalente) *
* Derivador
*.tran	5m	10u


V_V1         s	0	DC	0	AC	1
+PULSE	0	10m	1k	0	0	0
R_Ri		i	i2	1meg  
*R_Rs		s 	i	10  
C_Ci		i2	0	100n
R_Rs1		m	i	100
C_Cs		s	m	100n  
E_E1		out	0	0	i2	100K
R_Rf		out	i 	10K  
R_RL		0	out 	1k

