* Amplificador simple tension *
* tran <Tstep> <Tstop> [Tstart [dTmax]] [modifiers]
*.tran 0 10m 0 10u


*V_V1         n1 n2 DC 0 AC 1 SIN off amp f 0 0 0
V_Vs         s	0	DC	1m	AC	1
+PULSE	0	1m	100
*ganancia a lazo abierto
*R_Rs1	s	in	100
*derivador real
R_Rs	s	m	100
C_Cs	m	in	100n
*polo del operacional
R_Rin	in	in2	1meg
C_Cin	in2	0	100n
*Inversor
E_E1	out	0	0	in2	100000
*R_Ro	out2	out	75
*R_Rf2	m	in	1
R_Rf	out	in	10K
R_RL	out	0	1k
